US07767675B2
Step 1. tert-butyl [2-(pyridin-2-yloxy)ethyl]carbamate
Diethyl azodicarboxylate (630 μL, 4.00 mmol) was added to a mixture of 2-hydroxypyridine (0.380 g, 4.0 mmol), tert-butyl (2-hydroxyethyl)carbamate (0.322 g, 2.0 mmol) and triphenylphosphine (1.05 g, 4.0 mmol) in THF (6.0 mL). The mixture was stirred overnight at RT, and concentrated. The residue was chromatographed on silica gel with EtOAc in hexanes to give the product (0.353 g, 74.1%). LCMS: (M+H)=239.2.

reactant | Diethyl azodicarboxylate | 4.00 mmol, 630 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-hydroxypyridine | 4.0 mmol, 0.380 g | OC1=NC=CC=C1 | C5H5NO
reactant | tert-butyl (2-hydroxyethyl)carbamate | 2.0 mmol, 0.322 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | triphenylphosphine | 4.0 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | tert-butyl [2-(pyridin-2-yloxy)ethyl]carbamate | 0.353 g, 74.1% | N1=C(C=CC=C1)OCCNC(OC(C)(C)C)=O | C12H18N2O3
